US06914058B2
4-(4-Azido-2,6-difluorophenyl)morpholine
Sodium nitrite (0.91 g, 13.3 mmol) was added to an ice-cooled solution of 3,5-difluoro-4-morpholin-4-yl-phenylamine (0.95 g, 4.4 mmol), obtained in Preparation 6, in 6N HCl (30 mL) and the resulting yellow solution was stirred at 0° C. for 2 h. To this mixture was added an aqueous solution containing sodium azide (0.575 g, 8.86 mmol) and sodium acetate (57.5 g, 88.6 mmol). The reaction mixture was then extracted with ethyl acetate (50 mL×2) and the combined extracts were washed with 5% sodium bicarbonate solution followed by brine and dried over sodium sulfate. Evaporation of volatiles yielded the title compound as brown solid (1 g, 96%).

reactant | Sodium nitrite | 13.3 mmol, 0.91 g | N(=O)[O-].[Na+]
reactant | 3,5-difluoro-4-morpholin-4-yl-phenylamine | 4.4 mmol, 0.95 g | FC=1C=C(C=C(C1N1CCOCC1)F)N | C10H12F2N2O
reactant | sodium azide | 8.86 mmol, 0.575 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium acetate | 88.6 mmol, 57.5 g | C(C)(=O)[O-].[Na+]
solvent | HCl | 6N, 30 mL | Cl | ClH
product | 4-(4-Azido-2,6-difluorophenyl)morpholine | 1 g, 96% | N(=[N+]=[N-])C1=CC(=C(C(=C1)F)N1CCOCC1)F | C10H10F2N4O
